US07109148B2
First, 0.365 g of methyl 2-[2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]propionate was dissolved in 4 ml of 1,4-dioxane, to which a mixed solution of 1 ml of concentrated hydrochloric acid and 1 ml of water was added under stirring, and the mixture was heated and stirred under reflux for 5 hours and 45 minutes. The reaction mixture was then left for cooling, into which ice water was poured, and after addition of ethyl acetate and saturated aqueous sodium chloride solution, the mixture was subjected to phase separation. To the organic layer was added aqueous sodium hydrogencarbonate solution, and the mixture was subjected to phase separation. To the aqueous layer was added aqueous hydrochloric acid solution for acidification, to which ethyl acetate was added, and the mixture was subjected to phase separation. The organic layer was washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, and then concentrated to give 0.183 g of 2-[2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]propionic acid.

reactant | methyl 2-[2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]propionate | 0.365 g | ClC1=C(OC2=C(OC(C(=O)OC)C)C=CC=C2)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C22H17ClF4N2O6
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 1 ml | Cl | ClH
solvent | water | 1 ml | O | H2O
product | 2-[2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]propionic acid | 0.183 g | ClC1=C(OC2=C(OC(C(=O)O)C)C=CC=C2)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C21H15ClF4N2O6
